US03982011
4-(1-Cyclohexene-1-carbonylamino)-benzoic acid was prepared as described in Example 1 from 16.6 g (0.121 mol) of p-aminobenzoic acid with 22.0 g (0.152 mol) of 1-cyclohexene-1-carboxylic acid chloride and 21.3 ml (0.152 mol) of triethylamine. Recrystallization from THF/n-pentane.

reactant | p-aminobenzoic acid | 0.121 mol, 16.6 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 1-cyclohexene-1-carboxylic acid chloride | 0.152 mol, 22.0 g | C1(=CCCCC1)C(=O)Cl | C7H9ClO
reactant | triethylamine | 0.152 mol, 21.3 ml | C(C)N(CC)CC | C6H15N
product | 4-(1-Cyclohexene-1-carbonylamino)-benzoic acid | C1(=CCCCC1)C(=O)NC1=CC=C(C(=O)O)C=C1 | C14H15NO3
